US07375227B2
388C. 4-Isocyanato-2-methyl-quinoline
To a solution of 2-methyl-quinoline-4-carboxylic acid (276 mg, 1.2 mmol) in DMF (4 mL) at 0° C. is added triethylamine (1.22 mg, 1.2 mmol) and slowly (30 min) DPPA (332 mg, 1.2 mmol). The reaction mixture is stirred for 2 h at 0° C. and 12 h at 20° C. The reaction is quenched with ice (10 g) and extracted with Et2O (6×30 mL). The combined organic extracts are washed successively with saturated NaHCO3 (2×15 mL) and water (2×10 mL), and are evaporated without heating in vacuo. The residue is dissolved in dry toluene and heated at reflux for 2 h. The resulting solution is carried forward without further isolation of the title compound.

reactant | 2-methyl-quinoline-4-carboxylic acid | 1.2 mmol, 276 mg | CC1=NC2=CC=CC=C2C(=C1)C(=O)O | C11H9NO2
reactant | triethylamine | 1.2 mmol, 1.22 mg | C(C)N(CC)CC | C6H15N
reactant | DPPA | 1.2 mmol, 332 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-Isocyanato-2-methyl-quinoline | N(=C=O)C1=CC(=NC2=CC=CC=C12)C | C11H8N2O
